* G:\JCAP\Dev\Video\VGA\Hardware\R-2R_DAC.asc
Red1 R N001 270
Red0 R N002 510
R1 R 0 130
R§Green1 G N003 270
R§Green0 G N004 510
R2 G 0 130
R§Blue1 B N005 270
R§Blue0 B N006 510
R3 B 0 130
R§HSync H N007 270
R§VSync V N008 270
V1 N001 0 0
V2 N002 0 3.3
V3 N003 0 3.3
V4 N004 0 0
V5 N005 0 3.3
V6 N006 0 3.3
V7 N007 0 3.3
V8 N008 0 3.3
R4 R 0 75
R5 G 0 75
R6 B 0 75
.tran 1
.backanno
.end
